US03948971
A suspension of 0.05 moles of aspartic acid dimethyl ester hydrochloride in 50 ml. of chloroform is cooled to 0°C. and the pH adjusted to 8 by addition of triethylamine. 1-Methylcyclobutyl chloroformate 0.10 moles prepared according to the procedure of Example 1 is added portion-wise at 0°C. and the pH of the reaction is maintained at 8 by addition of triethylamine. Upon completion of the addition, the reaction is stirred overnight at 20°-25°C. The reaction solution is washed successively with 10 ml. portions of a saturated sodium bicarbonate solution, 50% saturated solution of sodium chloride, 0.2 N sulfuric acid saturated with sodium sulfate, 50% saturated solution of sodium chloride (twice), and the chloroform solution is dried over sodium acetate. Removal of the chloroform affords N-(1-methylcyclobutyloxycarbonyl)-aspartic acid dimethyl ester. Saponification is accomplished by dissolving the ester in 50 ml. of methanol, water 50 ml. is added, and the pH is adjusted to 12 by addition of 2 N sodium hydroxide. After stirring overnight at 25°C., the pH is adjusted to 7 with 2N sulfuric acid. The methanol is removed in vacuo and saturated sodium bicarbonate solution is added to the water solution. The aqueous bicarbonate solution is washed two times with ether and then the pH is adjusted to 3 by addition of concentrated hydrochloric acid. The acidified solution is extracted three times with ethyl acetate and the organic extracts combined, washed twice with sodium chloride solution and dried over sodium sulfate. The solvent is removed in vacuo to afford N-(1-methylcyclobutyloxycarbonyl) aspartic acid.

reactant | aspartic acid dimethyl ester hydrochloride | 0.05 moles | Cl.COC([C@@H](N)CC(=O)OC)=O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | 1-Methylcyclobutyl chloroformate | 0.10 moles | ClC(=O)OC1(CCC1)C | C6H9ClO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(1-methylcyclobutyloxycarbonyl)-aspartic acid dimethyl ester | COC([C@@H](NC(=O)OC1(CCC1)C)CC(=O)OC)=O | C12H19NO6
